US04837334
Trans-ethyl 3-(2-amino-3-methyl-5-[tetrazol-1-yl]phenyl)prop2-enoate
To solution of 1-(4-amino-3-iodo-5-methylphenyl)tetrazole (5 g) in acetonitrile (80 cm3) was added ethyl acrylate (2 g), triethylamine (2 g) and palladium acetate (0.1 g). The mixture was heated under reflux for 11/2 hours, cooled and then partitioned between water (100 cm3) and dichloromethane (100 cm3). The aqueous phase was re-extracted with more dichloromethane (100 cm3) and the combined organic phase were dried (MgSO4), filtered and evaporated in vacuo. The residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with dichloromethane: methanol, 20:1. Combination and evaporation of appropriate fractions gave a solid which on recrystallisation from ethyl acetate/methanol afforded yellow needles of trans-ethyl 3-(2-amino-3-methyl-5-[tetrazol-1-yl]phenyl)prop-2-enoate, m.p. 210°-211°, (3.45 g).

reactant | 1-(4-amino-3-iodo-5-methylphenyl)tetrazole | 5 g | NC1=C(C=C(C=C1C)N1N=NN=C1)I | C8H8IN5
reactant | ethyl acrylate | 2 g | C(C=C)(=O)OCC | C5H8O2
reactant | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 80 cm3 | C(C)#N | C2H3N
catalyst | palladium acetate | 0.1 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Trans-ethyl 3-(2-amino-3-methyl-5-[tetrazol-1-yl]phenyl)prop2-enoate | NC1=C(C=C(C=C1C)N1N=NN=C1)/C=C/C(=O)OCC | C13H15N5O2
